US04775671
7 g (20.5 mmol) of 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole are suspended in 20 ml of N,N-dimethylformamide, whereupon the suspension is treated with 3.5 ml (about 46 mmol) of a 25 percent aqueous ammonia solution, the mixture is stirred at room temperature for 1 hour and then poured into 10 ml of water. The product is filtered off under suction after 1 hour, rinsed with water and dried at 80° in a high vacuum. There is obtained 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide of melting point 266°-268°.

reactant | 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole | 20.5 mmol, 7 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N1C=NC=C1)C)=O | C16H12ClN5O2
reactant | ammonia | N | H3N
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N)C)=O | C13H11ClN4O2
